US06809110B2
In analogy to the procedure described in example 4 d], [rac]-3-(3,5-difluoro-4-hydroxy-phenyl)-2-ethoxy-propionic acid ethyl ester [example 70 a]] was reacted with 2-[2-(4-chloro-phenyl)-5-methyl-thiazol-4-yl]-ethanol (prepared from [rac]-4-bromo-3-oxo-pentanoic acid methyl ester [PCT Int. Appl. (2001), WO 01/79202] and 4-chloro-thiobenzamide in analogy to the procedures described in examples 12 a] and 12 b]) in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-3-(4-{2-[2-(4-chloro-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3,5-difluoro-phenyl)-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-3-(4-{2-[2-(4-chloro-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3,5-difluoro-phenyl)-2-ethoxy-propionic acid as light yellow amporphous solid.

reactant | [rac]-3-(3,5-difluoro-4-hydroxy-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C(=C1)F)O)F)OCC)=O | C13H16F2O4
reactant | 2-[2-(4-chloro-phenyl)-5-methyl-thiazol-4-yl]-ethanol | ClC1=CC=C(C=C1)C=1SC(=C(N1)CCO)C | C12H12ClNOS
reactant | [rac]-4-bromo-3-oxo-pentanoic acid methyl ester | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | 4-chloro-thiobenzamide | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-3-(4-{2-[2-(4-chloro-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3,5-difluoro-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C(=C1)F)OCCC=1N=C(SC1C)C1=CC=C(C=C1)Cl)F)OCC)=O | C25H26ClF2NO4S
